US04132731
5-Acetamido-N-(2-hydroxypropyl)-2,4,6-triiodoisophthalamic Acid
Analogously to Example 3, 5-amino-N-(2-hydroxypropyl)2,4,6-triiodoisophthalamic acid and acetyl chloride are reacted in dimethylacetamide. Yield: 87%, m.p. 276°-278° C., with decomposition.

reactant | 5-amino-N-(2-hydroxypropyl)2,4,6-triiodoisophthalamic acid | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCC(C)O)I | C11H11I3N2O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 5-Acetamido-N-(2-hydroxypropyl)-2,4,6-triiodoisophthalamic Acid | Yield: 87% | C(C)(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCC(C)O)I | C13H13I3N2O5
